US07759385B2
5-chloro-3-(1,2,3,6-tetrahydropyridine-4-yl)-1H-indole (2 g, 9.25 mmole) was dissolved in methanol (50 ml) under argon. Pd/carbon (100 mg, 5%) was added and the reaction mixture was hydrogenated for 8 hours at 2 bar. The product was worked up by filtering the solution through silica gel and washing with methanol (10×20 ml). The filtrate was concentrated by evaporation and dried. 5-chloro-3-piperidine-4-yl-1H-indole was obtained in a yield of 2 g (100%) with an m.p. of 156°-158° C.

reactant | 5-chloro-3-(1,2,3,6-tetrahydropyridine-4-yl)-1H-indole | 9.25 mmole, 2 g | ClC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13ClN2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd carbon | 100 mg | [Pd].[C]
product | 5-chloro-3-piperidine-4-yl-1H-indole | ClC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15ClN2
